* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_3
* Fitness: 0.9885
*
* --- Active Constraints ---
* _comment: Phase 1: 9V to 12V Custom (Boost)
* vin_min: 8
* vin_max: 10
* vout_target: 12
* efficiency_target: 0.8
* power_in: 15
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 12.053152
* efficiency: 0.881133
* total_volume_cm3: 35.897250
* total_components: 4
* ============================

* 8V to 12V Boost, 15W
Vin in 0 8
L1 in sw 22u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 0.96
Vgate gate 0 PULSE(0 12 0 1n 1n 4.16u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end