* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_5
* Fitness: 0.9616
*
* --- Active Constraints ---
* _comment: Phase 1: 12V to 36V E-Bike (Boost - exact 1:3)
* vin_min: 11
* vin_max: 14
* vout_target: 36
* efficiency_target: 0.82
* power_in: 45
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 36.290990
* efficiency: 0.777312
* total_volume_cm3: 10000.000000
* total_components: 4
* ============================

* 12V to 36V boost, D=1-11/36=690m
Vin in 0 12
L1 in sw 47u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 220u
Rload out 0 2.4
Vgate gate 0 PULSE(0 12 0 1n 1n 6.9u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end