* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_12
* Fitness: 0.9730
*
* --- Active Constraints ---
* _comment: Phase 2: 12V to 72V Custom (Boost)
* vin_min: 10
* vin_max: 14
* vout_target: 72
* efficiency_target: 0.88
* power_in: 150
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 74.541199
* efficiency: 1.000000
* total_volume_cm3: 20.880000
* total_components: 4
* ============================

* 12V to 72V Boost, D=1-72/12=800m, t_on=8u, Rload=72^2/150=34.56
Vin in 0 12
L1 in sw 22u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 34.56
Vgate gate 0 PULSE(0 12 0 1n 1n 8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end