* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_1
* Fitness: 0.6334
*
* --- Active Constraints ---
* _comment: Phase 2: 12V to 48V Audio Amp (Boost - High Pwr)
* vin_min: 11
* vin_max: 15
* vout_target: 48
* efficiency_target: 0.9
* power_in: 150
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 32.480876
* efficiency: 0.751789
* total_volume_cm3: 10000.000000
* total_components: 4
* ============================

* cand_1
Vin in 0 15
L1 in sw 22u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 3.2
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end