* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_3
* Fitness: 0.5183
*
* --- Active Constraints ---
* _comment: Phase 3: 12V to 230V Inverter Step-Up (Boost)
* vin_min: 11
* vin_max: 15
* vout_target: 230
* efficiency_target: 0.93
* power_in: 400
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 137.440706
* efficiency: 0.045641
* total_volume_cm3: 10000.000000
* total_components: 7
* ============================

* 15V to 230V 2-phase boost, 400W
Vin in 0 15
L1 in sw1 10u
M1 sw1 gate1 0 0 NMOS W=1 L=1
D1 sw1 out DIODE
L2 in sw2 10u
M2 sw2 gate2 0 0 NMOS W=1 L=1
D2 sw2 out DIODE
C1 out 0 100u
Rload out 0 132
Vgate1 gate1 0 PULSE(0 12 0 1n 1n 9.35u 10u)
Vgate2 gate2 0 PULSE(0 12 5u 1n 1n 9.35u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end