* === GLOBAL BEST TOPOLOGY ===
* Candidate: cand_2
* Fitness: 0.5137
*
* --- Active Constraints ---
* _comment: Phase 3: 220V Mains to 5V USB Hub (Buck)
* vin_min: 200
* vin_max: 240
* vout_target: 5
* efficiency_target: 0.92
* power_in: 200
*
* --- Raw Metrics & Components ---
* simulation_output_voltage: 14.908178
* efficiency: 0.147369
* total_volume_cm3: 10000.000000
* total_components: 4
* ============================

* 200V to 5V async buck, 200W
Vin in 0 200
M1 in gate sw sw NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 10u
C1 out 0 470u
Rload out 0 0.125
Vgate gate sw PULSE(0 12 0 1n 1n 5u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end